US06040339
N-[2-t-Butyl-5-(carbamoyloxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide (Compound No. 46)
A solution of 401 mg (0.91 mmol) of N-[2-t-butyl-5-(hydroxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 9) in 4 ml of tetrahydrofuran was cooled to -40° C. in a dry ice-acetonitrile bath. 102 μl (1.17 mmol) of chlorosulfonyl isocyanate were added to the cooled solution, and the resulting mixture was stirred for 2.5 hours. At the end of this time, the reaction was quenched by the addition of a phosphate buffer solution (pH 6.9), and the mixture was then extracted with ethyl acetate. The extract was washed with water and then with a saturated aqueous solution of sodium chloride, after which it was dried. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 30 g of silica gel, using a gradient elution method, with mixtures ethyl acetate of and hexane ranging from 2:1 to 3:1 by volume as the eluent, to give 260 mg (yield 59%) of the title compound as a foam-like substance.

reactant | N-[2-t-butyl-5-(hydroxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide | 0.91 mmol, 401 mg | C(C)(C)(C)C1=C(C=C(C=C1)CO)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H39NO4
reactant | chlorosulfonyl isocyanate | 1.17 mmol, 102 μl | ClS(=O)(=O)N=C=O | CClNO3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-[2-t-Butyl-5-(carbamoyloxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide | 260 mg, yield 59% | C(C)(C)(C)C1=C(C=C(C=C1)COC(N)=O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C28H40N2O5
